US09303023B2
3-(2-Bromo-ethyl)-5-fluoro-1H-indole
The title compound was synthesized according to above mentioned procedure for 3-(2-bromoethyl)-5-methoxy-1H-indole, starting with 5-fluoroindole yielding a brown oil which was stored in the freezer. LC-MS conditions B: tR=0.82 min, [M(81Br)+MeCN+H]+=244.07.

reactant | 3-(2-bromoethyl)-5-methoxy-1H-indole | BrCCC1=CNC2=CC=C(C=C12)OC | C11H12BrNO
reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
product | 3-(2-Bromo-ethyl)-5-fluoro-1H-indole | BrCCC1=CNC2=CC=C(C=C12)F | C10H9BrFN
